* SPICE Netlist
* Voltage Source
VDD 2 0 DC 1.8
* Current Source
IIN 6 3 DC 10u
* PMOS Transistors
M4 2 2 3 3 PMOS
M5 2 2 3 3 PMOS
M6 4 5 2 2 PMOS
? Missing component
M8 2 3 4 4 PMOS
M9 2 4 5 5 PMOS
* NMOS Transistors
M1 3 6 6 6 NMOS
M2 3 3 6 6 NMOS
M3 3 3 6 6 NMOS
M10 5 5 3 3 NMOS
M11 OUT2 5 3 3 NMOS
* End of netlist
